US07648987B2
a) 1-(3-Benzyloxy-phenyl)-8-chloro-3-methylsulfanyl-imidazo[1,5-a]pyrazine
To a solution of [(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-thiocarbamic acid S-methyl ester (200 mg, 0.0005 mol) in MeCN (10 mL) and DMF (0.12 mL, 0.0015 mol) was added POCl3 (0.14 mL, 0.0015 mol); the resulting mixture was stirred at 55° C. overnight. The mixture was quenched with 2N NH3/iPrOH, then diluted with EtOAc, washed with brine and dried over anhydrous sodium sulfate. The residue was purified by silica gel chromatography (Hex.: EtOAc=80:20→70:30) to give a yellow solid. 1H-NMR (CDCl3) confirmed a mixture of the desired product and starting material in ca. 1:1 ratio, which was taken on to next step.

reactant | [(3-benzyloxy-phenyl)-(3-chloro-pyrazin-2-yl)-methyl]-thiocarbamic acid S-methyl ester | 0.0005 mol, 200 mg | CSC(NC(C1=NC=CN=C1Cl)C1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C20H18ClN3O2S
reactant | DMF | 0.0015 mol, 0.12 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 0.0015 mol, 0.14 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 1-(3-Benzyloxy-phenyl)-8-chloro-3-methylsulfanyl-imidazo[1,5-a]pyrazine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)SC | C20H16ClN3OS
